Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C-:3]#[O+:4].[O:1]([C:2](=[C:5]=[C:6]([H:9])[H:10])[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],37.91237534823615
[C:1]([C@@:4]1([H:12])[C@@:2]([O:3][H:11])([C:6](=[O:7])[H:13])[O:5]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],35.9197408544938
[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8]>>[O:1]=[C:2](/[C:3](=[N:4]/[H:9])[O:7][N+:6]#[C-:5])[H:8],79.80338530591591
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[H:8][H:11].[N:1]#[C:2][O:3][C:4]([C:5]1=[C:6]([H:12])[N:7]1[H:13])([H:9])[H:10],88.42749899411741
[O:1]([C:4]([C:3]([C-:2]=[C:5]=[C+:6][H:12])([H:8])[H:9])([H:10])[H:11])[H:7]>>[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],32.1638511017057
[O:1]([C-:2]([C@@:3]1([H:9])[C:4]([H:10])=[N+:5]1[C:6](=[O:7])[H:12])[H:8])[H:11]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],33.986541769159906
[C:1]([C@@:6]1([H:13])[C@:4]([C:3](=[C:2])[H:10])([H:11])[N:5]1[H:12])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],6.080746574951803
[N:1](=[C:2]=[C:7]=[C:6]([O:5][H:10])[H:9])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],28.6613011189021
[C:1]([C@@:2]1([H:11])[O:3][C:4]([H:12])=[C:7]([H:13])[C:6]1=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],135.6556796942425
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:6]([H:13])[N+:5]12[C-:3]([H:10])[C:4]2([H:11])[H:12]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]3([H:10])[C:4]([H:11])([H:12])[N:5]1[C@@:6]23[H:13],27.7820253431821
[O:1]1[C@@:2]2([H:8])[C@@:3](/[N:5]=[C:6](\[O:7][H:11])[H:12])([H:9])[C@@:4]12[H:10]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],26.250367140563817
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])=[C:5]1[H:15].[H:13][H:14],107.55798236439101
[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]=[O:4])[H:10])([H:7])([H:8])[H:9].[N:5]#[N:6],26.465253564337306
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:14])([H:8])([H:9])[H:10].[C:3]([C:4](=[O:5])[H:13])([C:6]([O:7][H:17])([H:15])[H:16])([H:11])[H:12],53.722456706373386
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]/[C:6](=[O:7])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:15],97.769356515738
[C+:2](=[C:3]=[C-:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])[H:9].[O:1]([H:8])[H:10]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],0.5976507516711962
[C:1]([N:2]([H:9])[H:10])([H:6])([H:7])[H:8].[C:3](=[O:4])=[N:5][H:11]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],22.510900989840096
[O:1]=[C:2]([C:3](=[C:4]=[N:5][H:8])[H:7])[H:6]>>[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],56.7958818508749
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:3]([C@@:2]([O:4][H:13])([C:5]#[C:6][H:14])[H:10])([H:11])[H:12])([H:7])([H:8])[H:9],90.728572107141
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9]>>[N:1]([C:2](/[C:3](=[N:4]/[H:11])[H:10])=[N+:7]=[C-:5][O:6][H:12])([H:8])[H:9],57.0673446260586
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:5]([O:6][H:16])([H:9])([H:14])[H:15].[O:3]=[C:4]([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],53.25048494470381
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O-:1][C:7](=[C+:2][C:3]([O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:8])[H:9])[H:13],81.47779696756591
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],72.52293120545545
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@:5]1([O:6][H:7])[H:10],70.53978907919151
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2]=[C:3]([H:8])[H:9])[O:4][C:5]([C:6]#[N:7])([H:10])[H:11],72.47712862439079
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([N:7]=[C:6]=[C:5]=[C:4]=[C:2]=[O:3])([H:8])[H:9],106.13037821861799
[C:1]([C:2]([C:3]([C:5](=[C:4])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],13.017012128159514
